US04267394
A process according to claim 1 wherein phenol is reacted with isopropanol in the presence of a diethyl ether complex of boron trifluoride in phosphoric acid diluent at a temperature of between about 70°-90° C. to produce ortho-isopropyl phenol.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | ortho-isopropyl phenol | C(C)(C)C1=C(C=CC=C1)O | C9H12O
